US04935434
A. Ethyl β-cyclopropyl-α-ethoxymethylene-β-ketopropionate
Ethyl β-cyclopropyl-β-ketopropionate (247.0 g, 1.58 mole) [prepared according to the procedure described in J. Am. Chem. Soc., 70, 497 (1948)], triethyl orthoformate (468.3 g, 3.16 mole) and acetic anhydride (484.0 g, 4.74 mole) were combined and the solution was stirred at reflux for 4 h and at ambient temperature for 17 h. The excess reagents were distilled at water aspirator pressure (maximum head temperature permitted was 72° C.) and the oily pot residue was stirred at 10° C. with a mixture of ether and water. The ether layer was separated, washed once with cold water and dried over Na2SO4. Removal of the solvent gave 321.5 g (96%) of an orange-red liquid that was used directly in the next step.

reactant | Ethyl β-cyclopropyl-β-ketopropionate | 1.58 mole, 247.0 g | C1(CC1)C(CC(=O)OCC)=O | C8H12O3
reactant | triethyl orthoformate | 3.16 mole, 468.3 g | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic anhydride | 4.74 mole, 484.0 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl β-cyclopropyl-α-ethoxymethylene-β-ketopropionate | 321.5 g, 96% | C1(CC1)C(C(C(=O)OCC)=COCC)=O | C11H16O4
